US06921825B2
Adenylate Cyclase Assay
Samples of cAMP standards (0-10 pmol) are added to each test tube containing the incubation buffer (trizma base 0.1 M; aminophylline 8.0 mM; 2-mercaptoethanol 6.0 mM, pH 7.4) and [3H]-cAMP in a total volume of 0.5 mL. The binding protein, previously prepared from beef adrenals, is added to the samples previously incubated at 4° C. for 150 min. and, after the addition of charcoal are centrifuged at 2,000 g for 10 min. The clear supernatant (0.2 mL) is mixed with 4 mL of atomlight in a LS-1800 Beckman scintillation counter.

reactant | cAMP | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@H]4[C@H](O3)COP(=O)(O4)O)O)N | C10H12N5O6P
reactant | trizma base | 0.1 M | C(C(CO)(CO)N)O | C4H11NO3
reactant | aminophylline | 8.0 mM | CN1C2=C(NC=N2)C(=O)N(C1=O)C.CN1C2=C(NC=N2)C(=O)N(C1=O)C.C(CN)N
reactant | 2-mercaptoethanol | 6.0 mM, pH 7.4 | SCCO | C2H6OS
reactant | [3H]-cAMP | C1[C@@H]2[C@H]([C@H]([C@@H](O2)N3C=NC4=C3N=CN=C4N)O)OP(=O)(O1)O | C10H12N5O6P
reactant | charcoal | C | CH4
product | Adenylate | C1=NC2=C(C(=N1)N)N=CN2[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)O)O)O | C10H14N5O7P
